US05162308
Preparation of 2,4,5-Tribromo-1-ethylpyrrole-3-carbonitrile
Potassium t-butoxide (0.75 g, 6.7 mmol) is added in portions at room temperature to a solution of 2,4,5-tribromopyrrole-3-carbonitrile (2.0 g, 6.1 mmol) in anhydrous tetrahydrofuran (20 mL). After 30 minutes, ethyl iodide (1.04 g, 6.7 mmol) is added dropwise. The reaction solution is stirred at room temperature for 30 minutes and then refluxed for 90 minutes. The mixture is cooled, diluted with water and extracted with ethyl acetate. The organic layer is washed with water and saturated sodium chloride and dried (Na2SO4). Evaporation of the solvent and crystallization from ether-hexanes gives a solid which is further purified by flash column chromatography on silica gel, packed with methylene chloride and eluted with 3% ethyl acetate in methylene chloride. The analytically pure sample is finally crystallized from methylene chloride-hexanes as a white solid (1.55 g); mp 108.5°-109.5° C.

reactant | Potassium t-butoxide | 6.7 mmol, 0.75 g | CC(C)([O-])C.[K+]
reactant | 2,4,5-tribromopyrrole-3-carbonitrile | 6.1 mmol, 2.0 g | BrC=1NC(=C(C1C#N)Br)Br | C5HBr3N2
reactant | ethyl iodide | 6.7 mmol, 1.04 g | C(C)I | C2H5I
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2,4,5-Tribromo-1-ethylpyrrole-3-carbonitrile | BrC=1N(C(=C(C1C#N)Br)Br)CC | C7H5Br3N2
